US05563141
Ethyl 4-[4-[4-(4-pyridyl)piperazin-1-yl]phenoxy]butyrate
A stirred suspension of 4-(4-(4-pyridyl)piperazin-1-yl)phenol (1.34 g) in dry DMF (20 ml) was treated with sodium hydride (60% dispersion in mineral oil, 0.21 g) and the mixture stirred for 1 hour. To the resulting solution was added ethyl 4-bromobutyrate and the mixture was stirred for 16 hours. Solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic layer was washed with water, filtered through phase separating paper (Whatman 1PS) and evaporated. The residue was purified by flash chromatography on silica, eluting with 1.5/92.5/6 v/v/v methanol/ethyl acetate/aqueous ammonia (SG 0.89) and recrystallised from ethyl acetate/hexane to give the title compound (0.7 g) as a solid: m.p. 84°-85° C.; NMR (CDCl3) δ8.3(2H,d); 6.86(4H,c); 6.72(2H,d); 4.12(2H,q); 4.0(2H,t); 3.47(4H,m); 3.20(4H,m); 2.5(2H,t); 2.1(2H,m); 1.26(3H,t); m/e 370(M+H)+ ; calculated for C21H27N3O3C, 68.3; H, 7.4; N, 11.4. Found: C, 68.1; H, 7.4; N, 11.1%.

reactant | 4-(4-(4-pyridyl)piperazin-1-yl)phenol | 1.34 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C15H17N3O
reactant | sodium hydride | 0.21 g | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Ethyl 4-[4-[4-(4-pyridyl)piperazin-1-yl]phenoxy]butyrate | 0.7 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(OCCCC(=O)OCC)C=C1 | C21H27N3O3
